US09145414B2
In accordance with Example 4 (Steps 1 and 2), 4-nitro-1H-indazole was used instead of 5-nitro-1H-indazole, and 2-iodoethane was used instead of ethyl bromide-d5 to obtain 2-ethyl-2H-indazol-4-amine.

reactant | 4-nitro-1H-indazole | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | 2-iodoethane | ICC | C2H5I
product | 2-ethyl-2H-indazol-4-amine | C(C)N1N=C2C=CC=C(C2=C1)N | C9H11N3
